US07863291B2
To (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.059 g, 0.257 mmol) in N,N-dimethylformamide (15 mL) was added Cs2CO3 (0.209 g, 0.642 mmol) and 4-isothiocyanato-6-(pyridin-4-yl)pyrimidine (0.055 g, 0.257 mmol). The suspension was stirred at room temperature for 30 minutes. N,N′-diisopropylcarbodiimide (0.12 mL, 0.77 mmol) was then added and the mixture was continued to stir at room temperature for 18 hours. The mixture was concentrated and purified by silica gel chromatography (0-10% [9:1 methanol:ammonium hydroxide]-ethyl acetate) to afford (R)—N-(6-(pyridin-4-yl)pyrimidin-4-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.014 g, 0.04 mmol, 16% yield) as a yellow film. 1H NMR (400 MHz, MeOD) δ ppm 8.85 (1 H, d), 8.67 (2 H, dd), 8.04 (2 H, dd), 7.34 (1 H, br. s.), 4.06 (1 H, d), 3.76 (1 H, d), 3.23 (1 H, d), 3.10 (1 H, d), 2.70-2.99 (4 H, m), 2.01-2.22 (2 H, m), 1.53-1.86 (3 H, m). LCMS R.T.=0.42; [M+H]+=337.14.

reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.257 mmol, 0.059 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | Cs2CO3 | 0.642 mmol, 0.209 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-isothiocyanato-6-(pyridin-4-yl)pyrimidine | 0.257 mmol, 0.055 g | N(=C=S)C1=NC=NC(=C1)C1=CC=NC=C1 | C10H6N4S
reactant | N,N′-diisopropylcarbodiimide | 0.77 mmol, 0.12 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (R)—N-(6-(pyridin-4-yl)pyrimidin-4-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.04 mmol, 0.014 g, 16% yield | N1=CC=C(C=C1)C1=CC(=NC=N1)NC=1O[C@]2(CN3CCC2CC3)CN1 | C18H20N6O
